US04962103
(2R,4R)-1-p-Nitrobenzyloxycarbonyl-2-(2-hydroxyethyl)-4-t-butyldimethylsilyloxypyrrolidine (900 mg) was dissolved in 2.25 ml of dry pyridine, and 2.25 ml of acetic anhydride was added to the solution at room temperature, followed by stirring for 1 hour. The reaction mixture was diluted with diethyl ether, washed successively with brine, a diluted aqueous hydrochloric acid, brine, a diluted aqueous sodium hydroxide solution and brine, dired over anhydrous sodium sulfate to give (2R,4R)-1-p-nitrobenzyloxycarbonyl-2-(2-acetoxyethyl)-4-t-butyldimethylsilyloxypyrrolidine.

reactant | (2R,4R)-1-p-Nitrobenzyloxycarbonyl-2-(2-hydroxyethyl)-4-t-butyldimethylsilyloxypyrrolidine | 900 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)O[Si](C)(C)C(C)(C)C)CCO)C=C1 | C20H32N2O6Si
reactant | acetic anhydride | 2.25 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2.25 ml | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2R,4R)-1-p-nitrobenzyloxycarbonyl-2-(2-acetoxyethyl)-4-t-butyldimethylsilyloxypyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)O[Si](C)(C)C(C)(C)C)CCOC(C)=O)C=C1 | C22H34N2O7Si
